### PR TITLE
[Merged by Bors] - feat(Algebra/Group/Subgroup/Pointwise): Add conj_smul_eq_of_mem, Move conj_smul_le_of_le and conj_smul_subgroupOf

### PR DESCRIPTION
**Pull request by AlexBrodbelt**
Moved `conj_smul_le_of_le` and `conj_smul_subgroupOf` since they are lemmas regarding subgroups, and also because the added lemma `conj_smul_eq_of_mem`  which uses `conj_smul_le_of_le`  also depends on `subset_pointwise_smul_iff` which is in this Group section.

---

I think this is an instance of some missing API which I personally found this useful in my project where I heavily use conjugation.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 1]
```diff
@@ -447,6 +434,26 @@ theorem pointwise_smul_subset_iff {a : α} {S T : Subgroup G} : a • S ≤ T 
 theorem subset_pointwise_smul_iff {a : α} {S T : Subgroup G} : S ≤ a • T ↔ a⁻¹ • S ≤ T :=
   subset_smul_set_iff
 
+theorem conj_smul_le_of_le {P H : Subgroup G} (hP : P ≤ H) (h : H) :
+    MulAut.conj (h : G) • P ≤ H := by
+  rintro - ⟨g, hg, rfl⟩
+  exact H.mul_mem (H.mul_mem h.2 (hP hg)) (H.inv_mem h.2)
+
+theorem conj_smul_eq_self_of_mem {G : Type*} [Group G] {H : Subgroup G} {h : G} (hh : h ∈ H) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean]: Can't you use the `G` already in scope?

Comment (AlexBrodbelt) [reply Mathlib/Algebra/Group/Subgroup/Pointwise.lean]: Ah right, yes. Will fix

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
